US04897420
7-(4-Hydroxyphenyl)heptanoic acid (20 g) is subjected to similar catalytic reduction as Reference Example 5 in 80% ethanol. Ether is added to the crude product to give crystals. Recrystallization from ethanol-water and then from i-propanol-ether give trans-7-(4-hydroxycyclohexyl)heptanoic acid (7 g) as colorless needles, m.p. 123°-128° C.

reactant | 7-(4-Hydroxyphenyl)heptanoic acid | 20 g | OC1=CC=C(C=C1)CCCCCCC(=O)O | C13H18O3
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | trans-7-(4-hydroxycyclohexyl)heptanoic acid | 7 g | O[C@@H]1CC[C@H](CC1)CCCCCCC(=O)O | C13H24O3
